US07102001B2
E. Preparation of 5-Nitro-1-(3-fluorobenzyl)indazole (16)
5-nitro indazole (1 equiv.), cesium carbonate (1.1 equiv.) and DMF (5 volumes) were charged to a vessel. The mixture was heated to 70–80° C. and 3-fluoro benzyl bromide was added over 75 mins. The reaction was assayed by HPLC for completion (<2 AP of nitro indazole vs combined isomers) and then cooled to 20° C. The salts were filtered and the cake was washed with DMF (2.7 volumes). The product was crystallized by charging water (1.35 to 1.45 volumes) between 15–21° C. The crystal slurry was held for 4 h, crystals were filtered and washed with 2:1 DMF:water mix (2.1 volumes), water (2 volumes) and finally 3:1 cold ACN:water mix (1.5 volumes). The wet cake was dried <45° C. to LOD <1% and the yield was about 49%

reactant | 5-nitro indazole | 1 equiv. | [N+](=O)([O-])C=1C=C2C=NNC2=CC1 | C7H5N3O2
reactant | cesium carbonate | 1.1 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-fluoro benzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | nitro indazole | [N+](=O)([O-])C1=NNC2=CC=CC=C12 | C7H5N3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-Nitro-1-(3-fluorobenzyl)indazole | yield was about 49% | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CC1=CC(=CC=C1)F | C14H10FN3O2
